US05475112
The method according to claim 1, wherein 2-chloro-5-trichloromethylpyridine is reduced at a reaction temperature of from -20° C. to +100° C. with from 2 to 15 equivalents of the proton donor and from 2 to 15 equivalents of zinc, relative to 1 mol of 2-chloro-5-trichloromethylpyridine and from 0.5 to 50 parts by weight of the solvent, relative to 1 mol of 2-chloro-5-trichloromethylpyridine, to obtain 2-chloro-5-chloromethylpyridine.

reactant | 2-chloro-5-trichloromethylpyridine | ClC1=NC=C(C=C1)C(Cl)(Cl)Cl | C6H3Cl4N
reactant | 2-chloro-5-trichloromethylpyridine | 1 mol | ClC1=NC=C(C=C1)C(Cl)(Cl)Cl | C6H3Cl4N
reactant | 2-chloro-5-trichloromethylpyridine | 1 mol | ClC1=NC=C(C=C1)C(Cl)(Cl)Cl | C6H3Cl4N
catalyst | zinc | 2 to 15 equivalents | [Zn] | Zn
product | 2-chloro-5-chloromethylpyridine | ClC1=NC=C(C=C1)CCl | C6H5Cl2N
